US04131599
If instead of diethyl-trimethyl-oxopiperidine the equivalent amount of 2,6-dimethyl-2,6-dipropyl-3-ethyl-4-oxopiperidine is used in this procedure there is obtained 2,6-dimethyl-2,6-dipropyl-3-ethylpiperidine (Compound No. 2), boiling at 90°-95° C. at 2 mm Hg.

reactant | diethyl-trimethyl-oxopiperidine | C(C)C1(C(C(N(CC1)C)=O)(C)C)CC | C12H23NO
reactant | 2,6-dimethyl-2,6-dipropyl-3-ethyl-4-oxopiperidine | CC1(NC(CC(C1CC)=O)(CCC)C)CCC | C15H29NO
product | 2,6-dimethyl-2,6-dipropyl-3-ethylpiperidine | CC1(NC(CCC1CC)(CCC)C)CCC | C15H31N
